US09108966B2
(CF3SO2)2O (0.50 mL) was slowly added to a solution of (2S,5R)—N′-acetyl-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbohydrazide (0.5 g) and pyridine (0.5 mL) in dry DCM (10 mL) at −10° C. The reaction mixture was stirred at 0° C. for 1 h and then quenched carefully with sat. NaHCO3. The organic layer was separated and the aqueous layer was exacted with EtOAc (3×). The combined organic layer was dried over Na2SO4, concentrated and purified by silica gel column chromatography (gradient elution 10:1 to 1:1 petroleum ether/EtOAc) to afford (2S,5R)-6-(benzyloxy)-2-(5-methyl-1,3,4-oxadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one (0.3 g, 63%) as a slight yellow solid. ESI-MS (EI+, m/z): 315.0 [M+H]+.

reactant | (CF3SO2)2O | 0.50 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | (2S,5R)—N′-acetyl-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbohydrazide | 0.5 g | C(C)(=O)NNC(=O)[C@H]1N2C(N([C@H](CC1)C2)OCC2=CC=CC=C2)=O | C16H20N4O4
reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (2S,5R)-6-(benzyloxy)-2-(5-methyl-1,3,4-oxadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one | 0.3 g, 63% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C=2OC(=NN2)C | C16H18N4O3
